US07678917B2
To a stirred solution of 5-chloro-thiophene-2-carboxylic acid {(S)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-methylamino-cyclopentyl}-amide (36 mg) in acetonitrile (2 ml) were added N-ethyldiisopropylamine (0.03 ml) and mesyl chloride (0.01 ml). The reaction mixture was stirred at r.t. for 3 hrs, then concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2→CH2Cl2/MeOH 92:8) to give 5-chloro-thiophene-2-carboxylic acid [(S)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-(methanesulfonyl-methyl-amino)-cyclopentyl]-amide (32 mg) as off-white solid. MS 567.2 ([M+H]+).

reactant | 5-chloro-thiophene-2-carboxylic acid {(S)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-methylamino-cyclopentyl}-amide | 36 mg | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)C1CC([C@H](C1)NC(=O)C=1SC(=CC1)Cl)NC | C23H22ClFN4O3S
reactant | N-ethyldiisopropylamine | 0.03 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | mesyl chloride | 0.01 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 5-chloro-thiophene-2-carboxylic acid [(S)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-(methanesulfonyl-methyl-amino)-cyclopentyl]-amide | 32 mg | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)C1CC([C@H](C1)NC(=O)C=1SC(=CC1)Cl)N(C)S(=O)(=O)C | C24H24ClFN4O5S2
